US06372745B1
B. (R)-4-Carbobenzyloxy-1-(4,5-Dichloro-2-Nitrophenyl)-Piperazine-2-Carboxylic Acid
To a slurry containing 5.0 g of (R)-4-carbobenzyloxypiperazine-2-carboxylic acid, 4.2 g of 1,2-dichloro-fluoro-5-nitrobenzene, 85 mL of water and 170 mL of dimethylformamide is added slowly 5.3 mL of triethylamine. The solution is heated to 50° C. for 5 hours, then at ambient temperature overnight. The dark orange solution is concentrated under reduced pressure (1-2 mm, <50° C.) to an orange oily residue. This oil is dissolved in 400 mL of ethyl acetate and washed with 100 mL of 1 N HCl (2×), with 150 mL of water (2×), and 100 mL of brine. The organic layer is dried over MgSO4, filtered and concentrated to give 8.1 g (94.2%) of title compound as an orange solid foam.

reactant | (R)-4-carbobenzyloxypiperazine-2-carboxylic acid | 5.0 g | C(=O)(OCC1=CC=CC=C1)N1C[C@@H](NCC1)C(=O)O | C13H16N2O4
reactant | 1,2-dichloro-fluoro-5-nitrobenzene | 4.2 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])F)Cl | C6H2Cl2FNO2
reactant | water | 85 mL | O | H2O
reactant | dimethylformamide | 170 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 5.3 mL | C(C)N(CC)CC | C6H15N
product | (R)-4-Carbobenzyloxy-1-(4,5-Dichloro-2-Nitrophenyl)-Piperazine-2-Carboxylic Acid | 8.1 g, 94.2% | C(=O)(OCC1=CC=CC=C1)N1C[C@@H](N(CC1)C1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])C(=O)O | C19H17Cl2N3O6
